US06596734B1
1-(3,5-dibromo-4-methoxybenzyl)-6-(4-methoxy-benzyloxy)-7-amino-1,2,3,4-tetra-hydro-isoquinoline-2-carboxylic acid tert-butyl ester.
To a solution of 1-(3,5-dibromo-4-methoxybenzyl)-6-(4-methoxy-benzyloxy)-7-nitro-1,2,3,4-tetrahydro-isoquinoline-2-carboxylic acid tert-butyl ester (8.31 g, 0.012 mol) in 120 mL of ethyl acetate and 12 mL of pyridine was added powder tin (II) chloride dihydrate (27.08 g, 0.12 mol). The reaction mixture was stirred for 5 h at 55° C., cooled and filtered. The filtrate was washed 2 times with 1N NaOH. Water phase was extracted with chloroform. The extracts and ethyl acetate solution were combined, dried over Na2SO4 and concentrated. The product was purified by column chromatography (silica gel, ethyl acetate-hexanes mixture (1:4)), evaporated with ethyl ether and dried in vacuum. Yield 4.864 g (61%).

reactant | 1-(3,5-dibromo-4-methoxybenzyl)-6-(4-methoxy-benzyloxy)-7-nitro-1,2,3,4-tetrahydro-isoquinoline-2-carboxylic acid tert-butyl ester | 0.012 mol, 8.31 g | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)OCC1=CC=C(C=C1)OC)[N+](=O)[O-])CC1=CC(=C(C(=C1)Br)OC)Br | C30H32Br2N2O7
reactant | tin (II) chloride dihydrate | 0.12 mol, 27.08 g | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3,5-dibromo-4-methoxybenzyl)-6-(4-methoxy-benzyloxy)-7-amino-1,2,3,4-tetra-hydro-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)OCC1=CC=C(C=C1)OC)N)CC1=CC(=C(C(=C1)Br)OC)Br | C30H34Br2N2O5
